US07994185B2
Step B: 3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)aniline
To a solution of 2-propen-1-yl [3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]carbamate (40 g, 99 mmol) in DCM (500 mL), acetic acid (11.3 mL, 197 mmol) and Pd(PPh3)2Cl2 (1.3 g, 1.64 mmol) were added. Then tri-n-butyl tin hydride (37.3 mL, 145 mmol) was added dropwise to the mixture at 0° C. The mixture was stirred at rt for 30 min. The reaction was quenched by slow addition of saturated NaHCO3 (200 mL). The two layers were separated. The aqueous layer was extracted with DCM (400 mL×2). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was washed with petroleum ether (500 mL) to afford the title compound of Step B (26.1 g, 79.1% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.10 (d, J=5.5 Hz, 1H), 7.01 (dd, J=7.5 Hz, 8.1 Hz, 1H), 6.83 (dd, J=1.5 Hz, 8.2 Hz, 1H), 6.68 (dd, J=1.5 Hz, 7.5 Hz, 1H), 6.61 (d, J=5.5 Hz, 1H), 3.86-3.95 (br, 2H), 3.78-3.82 (m, 4H), 3.58-3.63 (m, 4H), 3.56 (s, 3H).

reactant | 2-propen-1-yl [3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)phenyl]carbamate | 99 mmol, 40 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NC(OCC=C)=O)OC | C22H22ClN5O4S
reactant | acetic acid | 197 mmol, 11.3 mL | C(C)(=O)O | C2H4O2
reactant | tri-n-butyl tin hydride | 145 mmol, 37.3 mL | C(CCC)[SnH](CCCC)CCCC
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)2Cl2 | 1.64 mmol, 1.3 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-[5-(2-Chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-(methyloxy)aniline | 26.1 g, 79.1% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(N)C=CC1)OC | C18H18ClN5O2S
